US05358938
3-Methoxy-4-propoxy-5-iodobenzaldehyde (compound 125, FIG. 5)
5-Iodovanillin (25 g, 0.09 mol) in DMF (100 mL) was treated with potassium carbonate (32 g, 0.23 mol) and n-propyl iodide (52 g. 0.3 mol, 31 mL) and heated for 16 hours. The solution was allowed to cool to room temperature and then poured into water (500 mL) and extracted with ether (3×250 mL). The organic layers were combined and washed with water and saturated sodium chloride solution, and then dried over magnesium sulfate. The organic layer was evaporated by distillation under diminished pressure to an oil, and then purified by column chromatography (silica, 7:3 petroleum ether-ethyl acetate), to provide an amber colored solid (26.9 g, 93%). 1H NMR (CDCl3) 1.07 (t, 3H), 1.85 (m, 2H), 3.89 (s, 3H), 4.06 (t, 3H), 7.39 (s, 1 H), 7.84 (s, 1 H), 9.81 (s, 1 H).

reactant | 5-Iodovanillin | 0.09 mol, 25 g | IC=1C(=C(C=C(C=O)C1)OC)O | C8H7IO3
reactant | potassium carbonate | 0.23 mol, 32 g | C([O-])([O-])=O.[K+].[K+]
reactant | n-propyl iodide | 0.3 mol, 31 mL, 52 g | C(CC)I | C3H7I
reactant | water | 500 mL | O | H2O
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 3-Methoxy-4-propoxy-5-iodobenzaldehyde | 26.9 g, 93% | COC=1C=C(C=O)C=C(C1OCCC)I | C11H13IO3
